US07847043B2
Preparation of Diphenylbismuthanyl Bromide
In 400 ml of THF was dissolved 22.014 g (50 mmol) of triphenylbismuthine (Tokyo Kasei Co., Ltd.) under nitrogen atmosphere. The solution was cooled to 0° C. and thereto was slowly added dropwise 11.231 g (25 mmol) of tribromobismuthine (Aldrich Corp.) (30 minutes). The mixture was stirred to room temperature for 1 hour. The yellow precipitate was filtered and dried in a vacuum. The obtained precipitate was recrystallized from benzene, giving 27.422 g (62 mmol: yield 83%) of yellow powdery product.

reactant | triphenylbismuthine | 50 mmol, 22.014 g | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | tribromobismuthine | 25 mmol, 11.231 g | Br[Bi](Br)Br
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | Diphenylbismuthanyl Bromide | yield 83% | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)Br | InChI=1S/2C6H5.Bi.BrH/c2*1-2-4-6-5-3-1;;/h2*1-5H;;1H/q;;+1;/p-1
